US06894061B2
3-[(2-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol
The title compound was prepared from 2-fluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (100 mg, 0.26 mmol), cyclohexene (528 μL, 5.2 mmol), and 1.0 M solution of boron tribromide in dichloromethane (1.6 mL) according to the procedure and in the same manner as described in Example 105, step e. The volatile components were removed in vacuo, and the crude residue was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 5%-30% methyl tert-butyl ether in hexane, to afford the desired compound (86 mg, 89%) as a solid, m.p. 195-196° C.;

reactant | 2-fluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 0.26 mmol, 100 mg | FC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC(=CC=C1)OC)C | C21H18FNO3S
reactant | cyclohexene | 5.2 mmol, 528 μL | C1=CCCCC1 | C6H10
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
product | 3-[(2-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol | 86 mg, 89% | FC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C=1C=C(C=CC1)O)C | C20H16FNO3S
